US05608056
Under nitrogen atmosphere to a solution of 5-bromopyrimidine (18.3 g) in tetrahydrofuran (360 ml) and diethyl ether (360 ml) was slowly dropped 1.56 mol/l n-butyllithium in hexane solution (73.6 ml) at -90° C. to -95° C. The reaction mixture was stirred at the same temperature for an hour, and then the solution of (2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine (30.0 g) in tetrahydrofuran (60 ml) and ether (60 ml) was dropped into the reaction mixture below -85° C. The reaction mixture was stirred at -50° C. for an hour, then water (150 ml) was dropped thereto below -10° C. The reaction mixture was poured into ethyl acetate (500 ml) and ice-water (300 ml) and adjusted to pH 7.0 with concentrated hydrochloric acid. Insoluble material was removed by filtration and washed with ethyl acetate (200 ml). The organic layer was separated, washed with water (300 ml) and brine (300 ml), and then dried over magnesium sulfate, and evaporated. The residue was subjected to column chromatography on silica gel (360 g) [solvent; hexane:ethyl acetate=4:1 to 2:1 to 1:3] to give 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethyl-silyloxy) pyrrolidin-2-yl}-1-(pyrimidin-5-yl)methanol (25.1 g) as an oil.

reactant | 5-bromopyrimidine | 18.3 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | n-butyllithium | 1.56 mol/l | C(CCC)[Li]
reactant | (2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethylsilyloxy)-2-formylpyrrolidine | 30.0 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=O | C15H27NO4Si
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 360 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 360 ml | C(C)OCC | C4H10O
solvent | hexane | 73.6 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
product | 1-{(2S,4R)-1-allyloxycarbonyl-4-(t-butyldimethyl-silyloxy) pyrrolidin-2-yl}-1-(pyrimidin-5-yl)methanol | 25.1 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(O)C=1C=NC=NC1 | C19H31N3O4Si
